US09233974B2
(2S,3aS,6aS)-1-(S)-2-(methoxycarbonylamino)-3-methylbutanoyl)octahydrocyclopenta[b]pyrrole-2-carboxylic acid was synthesized in a similar manner as (2S,3aS,6aS)-1-((2S,3S)-2-(methoxycarbonylamino)-3-methylpentanoyl)octahydrocyclopenta[b]pyrrole-2-carboxylic acid substituting (2S,3S)-2-(methoxycarbonylamino)-3-methylpentanoic acid with (S)-2-(methoxycarbonylamino)-3-methylbutanoic acid. LCMS-ESI+ calc'd for C15H25N2O5: 313.17. Found: 313.12.

reactant | (2S,3aS,6aS)-1-((2S,3S)-2-(methoxycarbonylamino)-3-methylpentanoyl)octahydrocyclopenta[b]pyrrole-2-carboxylic acid | COC(=O)N[C@H](C(=O)N1[C@@H]2[C@H](C[C@H]1C(=O)O)CCC2)[C@H](CC)C | C16H26N2O5
reactant | (S)-2-(methoxycarbonylamino)-3-methylbutanoic acid | COC(=O)N[C@H](C(=O)O)C(C)C | C7H13NO4
product | octahydrocyclopenta[b]pyrrole-2-carboxylic acid | N1C2C(CC1C(=O)O)CCC2 | C8H13NO2
